US03953496
A solution of 17.5 g of 2-acetoxybenzoylchloride in 20 ml of dioxane was added at one time to a mixture of 4.6 g of 3,5-diaminobenzoic acid, 15.3 g of potassium acetate and 80 ml of water while stirring at a temperature of from 0° to 5°C. The stirring was continued at that temperature for one hour, then at room temperature for 30 minutes and at 50°C for 30 minutes. The resulting reaction mixture was added to 200 ml of cold diluted hydrochloric acid and the undissolved substance was separated. The substance was dissolved in about 100 ml of 1N NaOH aqueous solution and then the solution was treated with active carbon and acidified with hydrochloric acid so as to bring the pH of the solution to 3 - 4 thereby precipitating crystals. The crystals were recovered by filtration and washed with water. Recrystallization from methanol-water gave 7.2 g of 3,5-bis(salicylamido)-benzoic acid having a melting point between 305° - 108°308°(decomposition).

reactant | 2-acetoxybenzoylchloride | 17.5 g | C(C)(=O)OC1=C(C(=O)Cl)C=CC=C1 | C9H7ClO3
reactant | 3,5-diaminobenzoic acid | 4.6 g | NC=1C=C(C(=O)O)C=C(C1)N | C7H8N2O2
reactant | potassium acetate | 15.3 g | C(C)(=O)[O-].[K+]
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 80 ml | O | H2O
product | 3,5-bis(salicylamido)-benzoic acid | 7.2 g | C(C=1C(O)=CC=CC1)(=O)NC=1C=C(C(=O)O)C=C(C1)NC(C=1C(O)=CC=CC1)=O | C21H16N2O6
